US04068071
In dichloromethane (25 volume parts) was suspended potassium salt of benzylpenicillin (6.0 parts) and to the suspension, under stirring at room temperature, N,N-dimethylaniline (5.2 volume parts) and dichlorodimethylsilane (1.6 volume parts) were added in succession and, the mixture was stirred for 30 minutes. Then, the mixture was chilled to -30° C and phosphorus pentachloride (3.6 parts) was added, followed by stirring for 2 hours at -30° C. Then, to the resultant thioacetamide (1.5 parts) was added and the mixture was further stirred at -40 to -25° C for 1.5 hours. Then, under stirring at -40° C, to the mixture methanol (20 volume parts) was added drop by drop in such a manner that the temperature of -30° C was not exceeded, followed by the addition of trichloromethanesulfenyl chloride (2.3 volume parts). The mixture was stirred for 30 minutes. Under stirring at -30° C to the mixture water (5 volume parts) was added and, then, to the mixture concentrated aqueous ammonia (20 volume parts) was slowly added dropwise. Then, on an icewater bath, the resultant was adjusted to pH 4.1 with ammonia water, followed by stirring for 1 hour. The resultant precipitate was recovered by filtration, washed with 50% methanol and dichloromethane and dried. The procedure yielded 6-aminopenicillanic acid (2.2 part). In IR spectrum, this product was found in good agreement with an authentic sample.

reactant | potassium salt of benzylpenicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC3=CC=CC=C3)C(=O)[O-])C.[K+]
reactant | N,N-dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | dichlorodimethylsilane | Cl[Si](C)(C)Cl | C2H6Cl2Si
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | thioacetamide | C(C)(=S)N | C2H5NS
reactant | trichloromethanesulfenyl chloride | ClC(SCl)(Cl)Cl | CCl4S
reactant | ammonia | N | H3N
reactant | ammonia water | O.N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 6-aminopenicillanic acid | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
